US04306103
0.2% of 3,5-dichloronitrobenzene.
A process as claimed in claim 4, which further comprises continuously introducing chlorine with a mixture of 5-chloro-1,3-dinitrobenzene and m-dinitrobenzene to the reaction at a constant rate and distilling of 1,3,5-trichlorobenzene and m-dichlorobenzene.

reactant | chlorine | ClCl | Cl2
reactant | 5-chloro-1,3-dinitrobenzene | ClC=1C=C(C=C(C1)[N+](=O)[O-])[N+](=O)[O-] | C6H3ClN2O4
reactant | m-dinitrobenzene | [N+](=O)([O-])C1=CC(=CC=C1)[N+](=O)[O-] | C6H4N2O4
product | 3,5-dichloronitrobenzene | ClC=1C=C(C=C(C1)Cl)[N+](=O)[O-] | C6H3Cl2NO2
